US07244722B2
1-[2-(2,4-Difluorophenoxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone
TMAD (0.129 g, 0.750 mmol) was added to a solution of 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (0.200 g, 0.620 mmol), triphenylphosphine (0.196 g, 1.23 mmol) and 2,4-difluorophenol (0.160 g, 1.23 mmol) in THF (1 mL) at room temperature. After being stirred for 2 h, the mixture was concentrated and put through a silica column using toluene/EtOAc (7:3) as eluent. Solvents were removed in vacuo and the resulting N-t-BOC derivative was treated with dichloromethane/TFA/H2O (50:45:5; 5 mL) for 15 min with stirring. The mixture was concentrated and the residue purified by chromatography on silica gel using EtOAc/HOAc/MeOH/H2O (20:3:3:2) as eluent. The product-containing fractions were concentrated, washed between dichloromethane/5% aqueous NaOH, and put through a silica column using dichloromethane/MeOH (8:2) as eluent to give 30 mg (14%) of the title compound. HRMS m/z calcd for C16H18F2N4O2 (M)+ 336.1398, found 336.1392.

reactant | TMAD | 0.750 mmol, 0.129 g | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 0.620 mmol, 0.200 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 1.23 mmol, 0.196 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,4-difluorophenol | 1.23 mmol, 0.160 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-(2,4-Difluorophenoxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone | 30 mg, 14% | FC1=C(OCCN2C(C(=NC=C2)N2CCNCC2)=O)C=CC(=C1)F | C16H18F2N4O2
